US05254565
2,4-Difluorophenyl isocyanate (0.24 ml) was added to a solution of 3-amino-6-chloro-4-phenylquinoline (509 mg) in anhydrous tetrahydrofuran (8 ml), and the mixture was allowed to stand at room temperature for 20 hrs. The precipitated crystals were collected by filtration. The filtrate was concentrated and the precipitated crystals were collected by filtration. Thus obtained crystals were combined and recrystallized from ethanol to give 6-chloro-3-[3-(2,4-difluorophenyl)ureido]-4-phenylquinoline as colorless crystals (638 mg, 77.8 %). m.p. 206°14 207° C.

reactant | 2,4-Difluorophenyl isocyanate | 0.24 ml | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | 3-amino-6-chloro-4-phenylquinoline | 509 mg | NC=1C=NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl | C15H11ClN2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 6-chloro-3-[3-(2,4-difluorophenyl)ureido]-4-phenylquinoline | 638 mg, 77.8 % | ClC=1C=C2C(=C(C=NC2=CC1)NC(=O)NC1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C22H14ClF2N3O
